* C:\Users\Alvaro PC\Documents\GitHub\Elec-Pot\Module 4\Simulation\Simulation.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N005 0 SINE(0 120 60) Rser=0.1
L1 N005 0 1
L2 N008 N006 10m
D1 N006 N001 1N5408
D2 N008 N001 1N5408
D3 0 N006 1N5408
D4 0 N008 1N5408
M1 N002 N007 N003 N003 IRLZ44N
D5 0 N003 1N5824
L3 N003 N004 100µ
C2 N004 0 200µ
R1 N004 0 5.56
V2 N007 N003 PULSE(0 5 0 60n 40n 4.25u 5u)
R2 N010 0 10k
R3 N004 N010 38k
R4 N004 N009 1k
X§U1 0 N009 N010 TL431
R5 N002 N001 0.1
C1 N002 0 6800µF
.model D D
.lib C:\Users\Alvaro PC\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Alvaro PC\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 1
.tran 0 100m 0 10u
.model 1N5408 D (IS=1.41E-6 RS=0.0339 N=1.9011 BV=1000 IBV=5E-6 CJO=4.5E-11 M=0.4061 VJ=0.5 FC=0.5 TT=4.761E-6 EG=1.11 XTI=3)
.model IRLZ44N NMOS(Vto=2 Kp=20 Rd=22m)
.model 1N5824 D(Is=500u Rs=8m N=1.05 Bv=40)
.options reltol=1e-3 abstol=1e-12 vntol=1e-6
.options gmin=1e-12 itl1=300 itl2=100
.model SW_IDEAL SW(Ron=1m Roff=1Meg Vt=5 Vh=0.1)
.lib C:\Users\Alvaro PC\Desktop\TL431\TL431.mod
.backanno
.end
